US03932432
5,5-Dimethyl-8-(4-p-Fluorophenyl-1-Methylbutyl)-2-[3(3,4,5-Trimethoxyphenyl)-2-Propenyl]-10-Hydroxy-1,2,3,4-Tetrahydro-5H[1]Benzopyrano[4,3-c]Pyridin-10-ol
5,5-Dimethyl-8-(4-p-fluorophenyl-1-methylbutyl)-10-hydroxy-1,2,3,4-tetrahydro-5H[1]benzopyrano[4,3-c]pyridin-10-ol (1 mole) and 1-(3-chloropropenyl)3,4,5-trimethoxybenzene (0.5 mole) were reacted in dimethylformamide as described in Example 7 to give the desired product.

reactant | 5,5-Dimethyl-8-(4-p-fluorophenyl-1-methylbutyl)-10-hydroxy-1,2,3,4-tetrahydro-5H[1]benzopyrano[4,3-c]pyridin-10-ol | 1 mole | CC1(OC=2C(C(C=C(C2)C(CCCC2=CC=C(C=C2)F)C)(O)O)=C2CNCCC21)C | C25H32FNO3
reactant | 1-(3-chloropropenyl)3,4,5-trimethoxybenzene | 0.5 mole | ClCC=CC1=CC(=C(C(=C1)OC)OC)OC | C12H15ClO3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,5-Dimethyl-8-(4-p-Fluorophenyl-1-Methylbutyl)-2-[3(3,4,5-Trimethoxyphenyl)-2-Propenyl]-10-Hydroxy-1,2,3,4-Tetrahydro-5H[1]Benzopyrano[4,3-c]Pyridin-10-ol | CC1(OC=2C(C(C=C(C2)C(CCCC2=CC=C(C=C2)F)C)(O)O)=C2CN(CCC21)CC=CC2=CC(=C(C(=C2)OC)OC)OC)C | C37H46FNO6
